US05952368
3-Fluoro-4-[5-(4-chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-ylmethyl]aniline (2.0 g, 5.6 mmol) was dissolved in degassed DMF. Sodium thiomethoxide (1.5 g, 22.4 mmol) was added and the mixture stirred at room temperature under argon for 24 h. The reaction was poured into ice-water, acidified with acetic acid to pH 3 and extracted with ethyl acetate. The organic extracts were washed with water, and brine, and dried over magnesium sulfate. The solvent was removed in vacuo and the crude product was purified on a silica gel column (methylene chloride-methanol-acetone, 96:2:2) to give 3-fluoro-4-[5-(4-methylthiobenzoyl)-1,4-dimethyl-1H-pyrrol-2-ylmethyl]aniline (1.13 g, 55%) as a solid, mp 199.1-199.7° C.

reactant | 3-Fluoro-4-[5-(4-chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-ylmethyl]aniline | 5.6 mmol, 2.0 g | FC=1C=C(N)C=CC1CC=1N(C(=C(C1)C)C(C1=CC=C(C=C1)Cl)=O)C | C20H18ClFN2O
reactant | Sodium thiomethoxide | 22.4 mmol, 1.5 g | C[S-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-fluoro-4-[5-(4-methylthiobenzoyl)-1,4-dimethyl-1H-pyrrol-2-ylmethyl]aniline | 1.13 g, 55% | FC=1C=C(N)C=CC1CC=1N(C(=C(C1)C)C(C1=CC=C(C=C1)C)=S)C | C21H21FN2S
